* C:\Users\willi\OneDrive\Documents\rf_receiver\frontend\4_VCO\vco.asc
* Generated by LTspice 26.0.2 for Windows.
vdd N001 0 -1.8
L1 N001 out_1 5n Rser=0
L2 out_2 N001 5n Rser=0
C1 out_2 out_1 1p
C2 N002 out_1 0.5p
C3 out_2 N002 0.5p
vctrl N002 0 0.9v
M1 out_1 out_2 N003 N003 NMOS_RF
M2 out_2 out_1 N003 N003 NMOS_RF
ibias N003 0 10mA
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\willi\AppData\Local\LTspice\lib\cmp\standard.mos
.model NMOS_RF NMOS VTO=0.2 KP=50m LAMBDA=0.02
.ic V(out_1)=1 V(out_2)=0.8
.tran 0 2u 0 0.5p startup uic
.backanno
.end
