* C:\Users\willi\OneDrive\Documents\rf_receiver\frontend\4_VCO\vco.asc
* Generated by LTspice 26.0.2 for Windows.
V1 NC_01 N001 1.8
L1 N001 out_1 2n Rser=1m
L2 out_2 N001 2n Rser=1m
C1 out_2 out_1 1p
C2 N002 out_1 0.5p
C3 out_2 N002 0.5p
vctrl NC_02 N002 0.9v
M1 N003 out_2 out_1 out_1 NMOS_RF
M2 out_2 out_1 N003 N003 NMOS_RF
ibias 0 N003 1mA
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\willi\AppData\Local\LTspice\lib\cmp\standard.mos
.model NMOS_RF NMOS LEVEL=1 VTO=0.45 KP=250u LAMBDA=0.05
.tran 0 100n 0 1p startup
.backanno
.end
